US04789704
o-Allylphenol (245.6 g), 4,4'-difluorobenzophenone (200 g), potassium carbonate (187.4 g), dry N-methylpyrrolidone (700 ml) and toluene (250 ml) are placed in a 3-necked 2500 ml flask fitted with a stirrer, reflex condensor and thermometer and the mixture is heated under nitrogen to a temperature between 145°-155° C. and stirred for 31/2 hours. Water and toluene are separated via a Dean Stark trap and finally after 3.5 hours the reaction mixture reaches a temperature of 155° C. The mixture is cooled to 100° C. and a 1:1 mixture of toluene/water (1100 ml) is added while stirring. After phase separation the aqueous layer is washed with toluene (300 ml) and the combined toluene layers are washed 4 times with water (400 ml). The toluene phase is dried over sodium sulphate and toluene distilled off by use of a rotary evaporator finally in vacuum leaving 4,4'-bis[o-(1-propenyl)phenoxy]benzophenone as a light yellow melt. The yield is 363.3 g.

reactant | o-Allylphenol | 245.6 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | 4,4'-difluorobenzophenone | 200 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | potassium carbonate | 187.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 700 ml | CN1C(CCC1)=O | C5H9NO
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4'-bis[o-(1-propenyl)phenoxy]benzophenone | C(=CC)C1=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)OC3=C(C=CC=C3)C=CC)C=C2)C=CC=C1 | C31H26O3
